US06011050
To a stirred solution of dimethyl sulfone (3.70 g, 39.4 mmol) in tetrahydrofuran (350 mL), was added n-butyllithium (17.5 mL, 2.5 M, 43.8 mmol) under nitrogen at -78° C. and the mixture was stirred at 78° C. for 25 min. To a stirred solution of 3-ethoxy-4-methoxybenzaldehyde (7.10 g, 39.4 mmol) in tetrahydrofuran (40 mL) under nitrogen in a separate flask at 0° C. was added lithium hexamethyldisilazide (43.0 mL, 1.0 M, 43.0 mmol) in hexane. After 15 min, boron trifluoride etherate (10.0 mL, 78.9 mmol) was added to the resulting mixture at 0° C. After 5 min, this solution was added to the -78° C. sulfone solution via syringe. The solution was allowed to warm to room temperature over one hour. The resulting mixture was then quenched with potassium carbonate (32 g) and water (200 mL). The mixture was stirred for 30 min and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with water (50 mL), brine (50 mL), and then dried over magnesium sulfate. The solvent was removed in vacuo and the resulting solid stirred with ether (100 mL) and 4 N hydrochloric acid (100 mL) for 15 min. The aqueous layer was separated and the organic layer extracted with 4 N hydrochloric acid (30 mL). The combined aqueous layers were washed with ether (50 mL), stirred, and cooled in an ice bath and the pH adjusted to 14 with sodium hydroxide (5 N). This solution was extracted with ethyl acetate (3×100 mL) and the combined organic layers were washed with brine (50 mL) and dried over sodium carbonate and sodium sulfate. Removal of solvent in vacuo gave an oil which was stirred with ether (20 mL) for 20 min to give a suspension. The suspension was filtered and the solid was washed with ether (20 mL) and then dried in a vacuum oven to yield 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine as an off-white solid (4.17 g, 39%): mp, 116.5-117.0° C.; 1H NMR (CDCl3) δ 1.47 (t, J=7 Hz, 3H, CH3), 1.92 (br s 2H, NH2), 2.91 (s, 3H, SO2CH3), 3.19 (dd, J=3.5, 14 Hz, 1H, CHH), 3.36 (dd, J=9.3, 14 Hz 1H, CHH), 3.87 (s, 3H, CH3), 4.10 (q, J=7 Hz, 2H, CH2), 4.60 (dd, J=3.5, 9 Hz, 1H, CH), 6.83-6.93 (m, 3H, Ar); 13C NMR (CDCl3) δ 14.75, 42.42, 50.94, 55.99, 63.18, 64.44, 110.71, 111.67, 118.21, 135.55, 148.72, 149.09; Anal Calcd for C12H19NO4S: C, 52.73; H, 7.01; N, 5.12. Found: C, 52.82; H, 6.69; N, 4.99.

reactant | dimethyl sulfone | 39.4 mmol, 3.70 g | CS(=O)(=O)C | C2H6O2S
reactant | n-butyllithium | 43.8 mmol, 2.5 M, 17.5 mL | C(CCC)[Li]
reactant | 3-ethoxy-4-methoxybenzaldehyde | 39.4 mmol, 7.10 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | lithium hexamethyldisilazide | 43.0 mmol, 1.0 M, 43.0 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | boron trifluoride etherate | 78.9 mmol, 10.0 mL | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 20 mL | CCOCC | C4H10O
product | 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 4.17 g, 39% | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
